US07759373B2
A mixture of ethyl 5-ethyl-2-(4-fluorophenyl)imidazol-4-carboxylate (2.81 g), 4N aqueous sodium hydroxide solution (14 ml), ethanol (35 ml) and tetrahydrofuran (15 ml) was stirred at room temperature overnight, followed by refluxing for 3 hours. 4N aqueous sodium hydroxide solution (28 ml) was added to the mixture and the mixture was refluxed overnight. After cooling, the reaction mixture was concentrated under reduced pressure and neutralized by 10% hydrochloric acid, and precipitated solid was collected by filtration. The solid was dissolved in tetrahydrofuran, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was triturated with diethyl ether to obtain first crop of 5-ethyl-2-(4-fluorophenyl)imidazol-4-carboxylic acid (1.06 g) as colorless powder. Moreover, the filtrate was purified by HP-20 resin (trade name, available from Nippon Rensui K.K.) (solvent: water→methanol) to give second crop of 5-ethyl-2-(4-fluorophenyl)imidazol-4-carboxylic acid (1.60 g).

reactant | ethyl 5-ethyl-2-(4-fluorophenyl)imidazol-4-carboxylate | 2.81 g | C(C)C1=C(N=C(N1)C1=CC=C(C=C1)F)C(=O)OCC | C14H15FN2O2
reactant | sodium hydroxide | 4N, 14 ml | [OH-].[Na+]
reactant | ethanol | 35 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 4N, 28 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-ethyl-2-(4-fluorophenyl)imidazol-4-carboxylic acid | 1.06 g | C(C)C1=C(N=C(N1)C1=CC=C(C=C1)F)C(=O)O | C12H11FN2O2
